US07608736B2
N,N-Diethyl4-[[(2-methoxybenzoyl)amino]sulfonyl]benzamide
To a suspension of 4-[[(2-methoxybenzoyl)amino]sulfonyl)benzoyl chloride (1 mol) and diethylamine (1 mol) in acetonitrile (1000 ml), was added triethylamine (1 mol) at 10° C. The mixture was stirred for 2 hours at 20° C. and diluted with water (500 ml). The white precipitate was filtered off, washed and dried to give the title compound. The yield of product obtained was 98% of theory, and the purity 98%.

reactant | 4-[[(2-methoxybenzoyl)amino]sulfonyl)benzoyl chloride | 1 mol | COC1=C(C(=O)NS(=O)(=O)C2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO5S
reactant | diethylamine | 1 mol | C(C)NCC | C4H11N
reactant | triethylamine | 1 mol | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1000 ml | C(C)#N | C2H3N
solvent | water | 500 ml | O | H2O
product | N,N-Diethyl4-[[(2-methoxybenzoyl)amino]sulfonyl]benzamide | C(C)N(C(C1=CC=C(C=C1)S(=O)(=O)NC(C1=C(C=CC=C1)OC)=O)=O)CC | C19H22N2O5S
